US03983243
To an ice cold solution containing 10.4 g. of 3,6,7-trimethyl-1-[3,4-(methylenedioxy)-phenoxy]-2,6-octadiene in 100 ml. of methylenechloride, 7 g. of m-chloroperbenzoic acid were added portionwise. After this addition, the reaction mixture was allowed to stand for 2 hours at 0° to 3°C. under constant stirring. After this period, the reaction mixture was diluted with 250 ml. of diethylether, and washed with ice cold 1N sodium hydroxide and saturated aqueous sodium chloride solution. After washing, the reaction mixture was dried over sodium sulfate and evaporated. By chromatography on Kieselgel with hexane-diethylether (4:1 parts by volume) and distillation under vcuum, there was obtained pure 6,7-epoxy-3,6,7-trimethyl-1-[3,4-(methylenedioxy)-phenoxy]-2-octene; b.p. 120°-122°C./0.004 mmHg; nD20 = 1.5277.

reactant | 3,6,7-trimethyl-1-[3,4-(methylenedioxy)-phenoxy]-2,6-octadiene | CC(=CCOC1=CC2=C(C=C1)OCO2)CCC(=C(C)C)C | C18H24O3
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | 6,7-epoxy-3,6,7-trimethyl-1-[3,4-(methylenedioxy)-phenoxy]-2-octene | O1C(CCC(=CCOC2=CC3=C(C=C2)OCO3)C)(C1(C)C)C | C18H24O4
